US09447041B2
Preparation of Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate
The E/Z mixture of ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate (7.5 g, 21.59 mmol) and 10% Pd/C (50% wet; 1.13 g, 10.58 mmol) were taken up in ethyl acetate (60 mL, 613 mmol). The suspension was degassed 3× with N2 and followed with pre-activation of the catalyst with the addition of formic acid (2.48 mL, 64.8 mmol). The mixture was allowed to stir for 1-2 min. Triethylamine (9.03 mL, 64.8 mmol) was charged portion-wise maintaining the temperature <35° C. Upon complete addition of triethylamine, the mixture was stirred for about 5-10 minutes followed with heating to 50° C. The reaction progression was followed by HPLC to monitor the complete consumption of starting material (i.e., E/Z mixture of ethyl 2-(7-benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate) and the debenzylated intermediate. Approximately after 4 h at 50° C., the solution was cooled to about 20° C., the Pd/C was removed via vacuum filtration and rinsed with ethyl acetate (30 mL). To the filtrate was added water (75 mL) and the biphasic mixture was partitioned. The organics were washed with water (2×60 mL), concentrated under vacuum with a bath temp of 40° C. to a minimum stir volume, chased with ethyl acetate (1×37.5 mL) and further concentrated under vacuum to a minimum stir volume. Ethyl acetate (11 mL) was charged to the crude mixture and the resulting solution was heated to 60° C. Heptanes (34 mL) were charged maintaining the internal temperature at 60° C. The solution was slowly cooled to 10° C. and held for 30 min. The slurry was filtered, the filter cake rinsed with heptanes (2×52.5 mL) and the solids dried in the vacuum oven set to 40° C. to afford the title compound (2.78 g, 74.5% yield) as light beige solids.

reactant | ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate | 21.59 mmol, 7.5 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(NC2C=C1)C(CC3)=CC(=O)OCC | C22H21NO3
reactant | ethyl acetate | 613 mmol, 60 mL | C(C)(=O)OCC | C4H8O2
reactant | formic acid | 64.8 mmol, 2.48 mL | C(=O)O | CH2O2
catalyst | Pd/C | 10.58 mmol, 1.13 g | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 64.8 mmol, 9.03 mL | C(C)N(CC)CC | C6H15N
product | Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 2.78 g, 74.5% yield | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
